### PR TITLE
[Merged by Bors] - feat(MulChar): generalize duality results on finite abelian groups to multiplicative characters

### PR DESCRIPTION
**Pull request by xroblot**
---

- [x] depends on: #33792

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Subgroup/Map.lean [hunk 1]
```diff
@@ -446,6 +446,13 @@ lemma coe_mapSubgroup (e : G ≃* H) : mapSubgroup e = Subgroup.map e.toMonoidHo
 @[to_additive (attr := simp)]
 lemma symm_mapSubgroup (e : G ≃* H) : (mapSubgroup e).symm = mapSubgroup e.symm := rfl
 
+@[to_additive (attr := simp)]
+theorem mapSubgroup_trans (f : G ≃* G') (g : G' ≃* G'') :
+    f.mapSubgroup.trans g.mapSubgroup = (f.trans g).mapSubgroup := by ext; simp
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Map.lean]: To me, the name `mapSubgroup_trans` suggests the opposite direction `(f.trans g).mapSubgroup = f.mapSubgroup.trans g.mapSubgroup`.

File: Mathlib/Algebra/Group/Subgroup/Map.lean [hunk 2]
```diff
@@ -446,6 +446,13 @@ lemma coe_mapSubgroup (e : G ≃* H) : mapSubgroup e = Subgroup.map e.toMonoidHo
...
+
+theorem mapSubgroup_trans_apply (f : G ≃* G') (g : G' ≃* G'') (H : Subgroup G) :
+    f.mapSubgroup.trans g.mapSubgroup H = (f.trans g).mapSubgroup H := by simp
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Map.lean]: Likewise.

File: Mathlib/Algebra/Group/Submonoid/BigOperators.lean [hunk 3]
```diff
@@ -182,3 +182,11 @@ lemma mem_closure_finset {s : Finset M} :
 
 end CommMonoid
 end Submonoid
+
+section IsUnit
+
+@[to_additive]
+theorem IsUnit.coe {S : Type*} [Monoid M] [SetLike S M] [SubmonoidClass S M] {N : S} {a : N}
+    (ha : IsUnit a) : IsUnit (a : M) := ha.map (SubmonoidClass.subtype N)
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Submonoid/BigOperators.lean]: Are there existing lemmas that this supersedes, or places in the library where this lemma can be used?

File: Mathlib/Algebra/Group/Submonoid/Operations.lean [hunk 4]
```diff
@@ -718,10 +718,26 @@ theorem restrict_apply {N S : Type*} [MulOneClass N] [SetLike S M] [SubmonoidCla
...
+  simp [MonoidHom.ext_iff]
+
 @[to_additive (attr := simp)]
 theorem restrict_mrange (f : M →* N) : mrange (f.restrict S) = S.map f := by
   simp [SetLike.ext_iff]
 
+/--
+A version of `MonoidHom.restrict` as an homomorphism.
+-/
+@[to_additive (attr := simps apply) /--A version of `AddMonoidHom.restrict` as an homomorphism. -/]
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Submonoid/Operations.lean]: Should there be a space here?
```suggestion
@[to_additive (attr := simps apply) /-- A version of `AddMonoidHom.restrict` as an homomorphism. -/]
```

File: Mathlib/GroupTheory/Exponent.lean [hunk 5]
```diff
@@ -645,6 +653,19 @@ end Monoid
...
 variable [Group G]
+
+/--
+If `H` is a normal subgroup of `G`, then the exponent of `G ⧸ H` divides the exponent of `G`.
+-/
+@[to_additive
+/--
+If `H` is a normal additive subgroup of `G`, then the exponent of `G ⧸ H` divides the
+exponent of `G`.
+-/]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Exponent.lean]: This looks a bit funny taking up so many lines.

File: Mathlib/GroupTheory/FiniteAbelian/Duality.lean [hunk 6]
```diff
@@ -80,4 +97,107 @@ theorem monoidHom_mulEquiv_of_hasEnoughRootsOfUnity : Nonempty ((G →* Mˣ) ≃
...
+    hM.of_dvd M <| Group.exponent_quotient_dvd H
+  refine ⟨fun h ↦ ?_, fun hx φ hφ ↦ hφ x hx⟩
+  contrapose! h
+  rw [← (QuotientGroup.eq_one_iff x).not] at h
+  obtain ⟨ψ, hψ⟩ := exists_apply_ne_one_of_hasEnoughRootsOfUnity (G ⧸ H) M h
+  refine ⟨ψ.comp (QuotientGroup.mk' H), fun x hx ↦ ?_, hψ⟩
+  rw [coe_comp, Function.comp_apply, QuotientGroup.coe_mk', (QuotientGroup.eq_one_iff _).mpr hx,
+    map_one]
+
+variable (R : Type*) [CommRing R] [IsDomain R] [hR : HasEnoughRootsOfUnity R (Monoid.exponent G)]
```
Comment (tb65536) [inline Mathlib/GroupTheory/FiniteAbelian/Duality.lean]: I haven't looked carefully, but is the ring structure really necessary there?

**Review by tb65536 — COMMENTED** [review]
It might be helpful if you can separate off some of the helper lemmas into separate PR(s) to help reduce the diff and number of modified files.

File: Mathlib/Algebra/Group/Submonoid/BigOperators.lean [hunk 7]
```diff
@@ -184,3 +184,11 @@ lemma mem_closure_finset {s : Finset M} :
...
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Submonoid/BigOperators.lean]: This feels like a bit of a strange file for this, seeing as it doesn't involve bigoperators.

Comment (xroblot) [reply Mathlib/Algebra/Group/Submonoid/BigOperators.lean]: Right, I am not sure why I put it there in the first place 😅 Still, I moved it to `Algebra.Group.Submonoid.Units` where it belongs more naturally .

File: Mathlib/NumberTheory/MulChar/Duality.lean [hunk 8]
```diff
@@ -65,4 +74,69 @@ of unity. -/
...
+-/
+theorem restrictHom_surjective (N : Submonoid M) :
+    Function.Surjective (MulChar.restrictHom N R) := by
+  intro χ
+  obtain ⟨ψ, hψ⟩ := (χ.toUnitHom.comp N.unitsEquivUnitsType).restrict_surjective R N.units
+  refine ⟨MulChar.ofUnitHom ψ, ext fun _ ↦ ?_⟩
+  rw [MonoidHom.restrictHom_apply] at hψ
+  simp_rw [restrictHom_apply, restrict_ofUnitHom, hψ, toUnitHom_eq, ofUnitHom_eq,
+    equivToUnitHom_symm_coe, MonoidHom.coe_comp, MonoidHom.coe_coe, Function.comp_apply,
+    MulEquiv.apply_symm_apply, coe_equivToUnitHom]
```
Comment (tb65536) [inline Mathlib/NumberTheory/MulChar/Duality.lean]:
```suggestion
  rw [restrictHom_apply, restrict_ofUnitHom]
  simp [hψ]
```

File: Mathlib/NumberTheory/MulChar/Duality.lean [hunk 9]
```diff
@@ -65,4 +74,69 @@ of unity. -/
...
+noncomputable def subgroupOrderIsoSubgroupMulChar : Subgroup Mˣ ≃o (Subgroup (MulChar M R))ᵒᵈ :=
+  (CommGroup.subgroupOrderIsoSubgroupMonoidHom Mˣ R).trans mulEquivToUnitHom.symm.mapSubgroup.dual
+
+@[simp]
+theorem mem_subgroupOrderIsoSubgroupMulChar_iff {H : Subgroup Mˣ} {χ : MulChar M R} :
+    χ ∈ (subgroupOrderIsoSubgroupMulChar M R H).ofDual ↔ ∀ m ∈ H, χ m = 1 := by
+  simp_rw [subgroupOrderIsoSubgroupMulChar, OrderIso.trans_apply, OrderIso.dual_apply,
+    MulEquiv.coe_mapSubgroup, OrderDual.ofDual_toDual, Subgroup.mem_map_equiv, MulEquiv.symm_symm,
+    mulEquivToUnitHom_apply, CommGroup.mem_subgroupOrderIsoSubgroupMonoidHom_iff, Units.ext_iff,
+    coe_equivToUnitHom, Units.val_one]
```
Comment (tb65536) [inline Mathlib/NumberTheory/MulChar/Duality.lean]:
```suggestion
  rw [subgroupOrderIsoSubgroupMulChar, OrderIso.trans_apply, OrderIso.dual_apply,
    MulEquiv.coe_mapSubgroup, OrderDual.ofDual_toDual, Subgroup.mem_map_equiv]
  simp [Units.ext_iff]
```

File: Mathlib/NumberTheory/MulChar/Duality.lean [hunk 10]
```diff
@@ -65,4 +74,69 @@ of unity. -/
...
+
+@[simp]
+theorem mem_subgroupOrderIsoSubgroupMulChar_symm_iff {X : Subgroup (MulChar M R)} {m : Mˣ} :
+    m ∈ (subgroupOrderIsoSubgroupMulChar M R).symm (OrderDual.toDual X) ↔ ∀ χ ∈ X, χ m = 1 := by
+  simp_rw [subgroupOrderIsoSubgroupMulChar, OrderIso.symm_trans_apply, OrderIso.dual_symm_apply,
+    MulEquiv.symm_mapSubgroup, MulEquiv.symm_symm, OrderDual.ofDual_toDual,
+    MulEquiv.mapSubgroup_apply, CommGroup.mem_subgroupOrderIsoSubgroupMonoidHom_symm_iff,
+    Subgroup.mem_map, MonoidHom.coe_coe, mulEquivToUnitHom_apply, forall_exists_index, and_imp,
+    forall_apply_eq_imp_iff₂, Units.ext_iff, coe_equivToUnitHom, Units.val_one]
```
Comment (tb65536) [inline Mathlib/NumberTheory/MulChar/Duality.lean]: Can you `simp`-lify this proof at all? These long `rw`-chains aren't the most maintainable.

File: Mathlib/NumberTheory/MulChar/Lemmas.lean [hunk 11]
```diff
@@ -24,6 +24,27 @@ lemma eq_iff {R R' : Type*} [CommMonoid R] [CommMonoidWithZero R'] {g : Rˣ}
   rw [← Equiv.apply_eq_iff_eq equivToUnitHom, MonoidHom.eq_iff_eq_on_generator hg,
     ← coe_equivToUnitHom, ← coe_equivToUnitHom, Units.ext_iff]
 
+theorem restrict_ofUnitHom {R : Type*} [CommMonoid R] {R' : Type*} [CommMonoidWithZero R']
```
Comment (tb65536) [inline Mathlib/NumberTheory/MulChar/Lemmas.lean]: Should these be made variables?

File: Mathlib/NumberTheory/MulChar/Duality.lean (hunk 10 above)
Comment (xroblot) [reply Mathlib/NumberTheory/MulChar/Duality.lean]: Yes, indeed. Actually, one can shorten the proof a lot if using the right lemma ;)

File: Mathlib/NumberTheory/MulChar/Lemmas.lean (hunk 11 above)
Comment (xroblot) [reply Mathlib/NumberTheory/MulChar/Lemmas.lean]: I moved the declaration to a `variable` at the start of the section. It is a bit awkward since I want to keep the variables in a specific order so that it matches the order of `MonoidHom.restrict_surjective`. 
Let me know if it's fine with you

File: Mathlib/NumberTheory/MulChar/Lemmas.lean [hunk 12]
```diff
@@ -16,14 +16,41 @@ public import Mathlib.RingTheory.RootsOfUnity.Complex
...
+  rw [← Submonoid.val_unitsEquivUnitsType_symm_apply_coe S x, equivToUnitHom_symm_coe]
+
+variable (R')
+
+/--
+The restriction of a `MulChar` to a submonoid as an homomorphism.
+-/
+@[simps]
+noncomputable def restrictHom :
+    MulChar R R' →* MulChar T R' where
```
Comment (tb65536) [inline Mathlib/NumberTheory/MulChar/Lemmas.lean:46]:
```suggestion
noncomputable def restrictHom : MulChar R R' →* MulChar T R' where
```

File: Mathlib/NumberTheory/MulChar/Lemmas.lean [hunk 13]
```diff
@@ -16,14 +16,41 @@ public import Mathlib.RingTheory.RootsOfUnity.Complex
...
+  ext x
+  simp only [ofUnitHom_eq, restrict_apply, Units.isUnit, reduceIte, equivToUnitHom_symm_coe,
+    MonoidHom.coe_comp, MonoidHom.coe_coe, Function.comp_apply, MonoidHom.restrict_apply]
+  rw [← Submonoid.val_unitsEquivUnitsType_symm_apply_coe S x, equivToUnitHom_symm_coe]
+
+variable (R')
+
+/--
+The restriction of a `MulChar` to a submonoid as an homomorphism.
+-/
```
Comment (tb65536) [inline Mathlib/NumberTheory/MulChar/Lemmas.lean:43]:
```suggestion
/-- The restriction of a `MulChar` to a submonoid as an homomorphism. -/
```

**Review by tb65536 — APPROVED** [review]
maintainer delegate
